US08247595B2
To a solution of 1.7 g of 4,4,4-Trifluoro-2-butenyl p-toluenesulfonate and 1.2 g of (3,3,3-trifluoropropylsulfonyl)acetonitrile in 30 ml of tetrahydrofuran, 0.2 g of sodium hydride (60% in oil) was added at room temperature, and stirred at the same temperature for 1 day. To the reaction mixture, 10% hydrochloric acid was added, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography to obtain 0.95 g of 6,6,6-trifluoro-2-(3,3,3-trifluoropropylsulfonyl)-4-hexenenitrile (hereinafter referred to as the present compound (19)).

reactant | 4,4,4-Trifluoro-2-butenyl p-toluenesulfonate | 1.7 g | C1(=CC=C(C=C1)S(=O)(=O)OCC=CC(F)(F)F)C | C11H11F3O3S
reactant | (3,3,3-trifluoropropylsulfonyl)acetonitrile | 1.2 g | FC(CCS(=O)(=O)CC#N)(F)F | C5H6F3NO2S
reactant | sodium hydride | 0.2 g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 6,6,6-trifluoro-2-(3,3,3-trifluoropropylsulfonyl)-4-hexenenitrile | 0.95 g | FC(C=CCC(C#N)S(=O)(=O)CCC(F)(F)F)(F)F | C9H9F6NO2S
